US05317016
A solution of (2S,4S)-1-p-nitrobenzyloxycarbonyl-4-tritylthiopyrrolidine-2-methanol methanesulfonate (4.39 g: 6.93 mmole) and potassium phthalimide (2.57 g: 2 eq.) in dimethylformamide (30 ml) is stirred at 70° C. for 6 hours. The reaction mixture is poured into ice water and the precipitate is filtered off. The precipitate is dissolved in ethyl acetate, washed with saturated brine, dried over magnesium sulfate, and concentrated in vacuo. The residue is purified by silica gel column chromatography (toluene:ethyl acetate) to give (2S,4S)-1-p-nitrobenzyloxycarbonyl-2-phthalimidomethyl-4-tritylthiopyrrolidine (3.12 g). Yield: 64.3%. NMR δ(CDCl3) ppm: 1.40 to 2.30 (m, 2H), 2.60 to 3.08(m, 2H), 3.10 to 3.40(m, 1H), 3.55 to 4.23(m, 3H), 4.92, 5.06(ABq, J=12 Hz, 2H), 7.08 to 7.50 (m, 17H), 7.60 to 7.82(m, 4H), 8.10(d, J=9 Hz, 1H), 8.19(d, J=9 Hz, 1H). IR ν (CHCl3) cm-1 : 1720, 1701, 1607.

reactant | (2S,4S)-1-p-nitrobenzyloxycarbonyl-4-tritylthiopyrrolidine-2-methanol methanesulfonate | 6.93 mmole, 4.39 g | CS(=O)(=O)OC[C@H]1N(C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C33H32N2O7S2
reactant | potassium phthalimide | 2.57 g, 2 eq. | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | (2S,4S)-1-p-nitrobenzyloxycarbonyl-2-phthalimidomethyl-4-tritylthiopyrrolidine | 3.12 g, Yield: 64.3% | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@@H](C2)SC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)CN2C(C=3C(C2=O)=CC=CC3)=O)C=C1 | C40H33N3O6S
